US07642269B2
1-benzyl-7-(4-fluorobenzyloxy)-2,3-dimethyl-1H-pyrrolo[3,2-b]pyridine-6-carbonitrile
1-Benzyl-6-bromo-7-(4-fluorobenzyloxy)-2,3-dimethyl-1H-pyrrolo[3,2-b]pyridine hydrochloride prepared in Example 273 was neutralized with a saturated sodium carbonate solution to obtain 1-benzyl-6-bromo-7-(4-fluoro-benzyloxy)-2,3-dimethyl-1H-pyrrolo[3,2-b]pyridine (1.4 g, 3.18 mmol). A solution of 1-benzyl-6-bromo-7-(4-fluoro-benzyloxy)-2,3-dimethyl-1H-pyrrolo[3,2-b]pyridine (1.4 g, 3.18 mmol) and copper (I) cyanide (700 mg, 7.52 mmol) in anhydrous N,N-dimethylformamide (30 ml) was refluxed for 48 hours and then cooled to room temperature. Ethyl acetate was added to the reaction mixture, which was then filtered to discard insoluble solid. Water was added to the resulting solution, which was then extracted with ethyl acetate. The resulting organic layer was dried on anhydrous magnesium sulfate and then concentrated under reduced pressure. The resulting residue was purified with silica gel column chromatography (ethyl acetate/methanol=10/1, v/v) to give 278 mg of the titled compound as a white solid.

reactant | 1-benzyl-6-bromo-7-(4-fluoro-benzyloxy)-2,3-dimethyl-1H-pyrrolo[3,2-b]pyridine | 3.18 mmol, 1.4 g | C(C1=CC=CC=C1)N1C(=C(C2=NC=C(C(=C21)OCC2=CC=C(C=C2)F)Br)C)C | C23H20BrFN2O
reactant | copper (I) cyanide | 7.52 mmol, 700 mg | [Cu]C#N
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 1-benzyl-7-(4-fluorobenzyloxy)-2,3-dimethyl-1H-pyrrolo[3,2-b]pyridine-6-carbonitrile | 278 mg | C(C1=CC=CC=C1)N1C(=C(C2=NC=C(C(=C21)OCC2=CC=C(C=C2)F)C#N)C)C | C24H20FN3O
